US06825170B2
5-(2-pyridinyl)-3-thiophenecarboxaldehyde
The title compound is prepared by a procedure analogous to Reference Example 15 by substituting 5-bromo-3-thiophenecarboxaldehyde (prepared as described in Chem. Pharm. Bull. 1999, 47,1393) and 2-bromopyridine, respectively, for the 4-bromo-2-fluorobenzaldehyde and 2-bromopyrimidine of Reference Example 15. MS 190 (M+H)+.

reactant | 5-bromo-3-thiophenecarboxaldehyde | BrC1=CC(=CS1)C=O | C5H3BrOS
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-bromo-2-fluorobenzaldehyde | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 2-bromopyrimidine | BrC1=NC=CC=N1 | C4H3BrN2
product | 5-(2-pyridinyl)-3-thiophenecarboxaldehyde | N1=C(C=CC=C1)C1=CC(=CS1)C=O | C10H7NOS
